US06166006
To a solution of ethyl 7-(4-trifluoromethylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (440 mg) in tetrahydrofuran-ethanol (10-10 ml) was added 1N sodium hydroxide (4.0 ml) at room temperature, and the mixture was stirred for 20 hours and concentrated under reduced pressure. To the residue was added 1N hydrochloric acid (5 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated. The resulting crystal was collected by filtration to give 7-(4-trifluoromethylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (392 mg) as colorless crystals.

reactant | ethyl 7-(4-trifluoromethylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 440 mg | FC(C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1)(F)F | C20H17F3O3
reactant | sodium hydroxide | 1N, 4.0 ml | [OH-].[Na+]
solvent | tetrahydrofuran-ethanol | 10-10 ml | O1C(CCC1)CCO | C6H12O2
product | 7-(4-trifluoromethylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 392 mg | FC(C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1)(F)F | C18H13F3O3
